US06166064
1,2,3,5,6,7-Hexahydro-s-indacen-4-ylamine
A slurry of N-(1,2,3,5,6,7-hexahydro-s-indacen-4yl)-acetamide (110 grams) in YY mL of 25% sulfuric acid was treated with enough ethanol to make a solution (ca YY mL). The resulting solution was heated to reflux for a period of 2 days. The resulting black solution was treated with charcoal at reflux, filtered hot and cooled to 0° C. The solution was then cautiously neutralized with 20% sodium hydroxide solution. The resulting slurry was then filtered and washed with water until the filtrate ran neutral. The tan solid was then isolated and dried in vacuo to give 80 grams of the title compound, m.p. 94.5-96.6° C., which was used without further purification. If necessary, the title compound can be recrystallized from methanol to afford a white solid.

reactant | N-(1,2,3,5,6,7-hexahydro-s-indacen-4yl)-acetamide | 110 grams | C1CCC2=C(C=3CCCC3C=C12)NC(C)=O | C14H17NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 1,2,3,5,6,7-Hexahydro-s-indacen-4-ylamine | 80 grams | C1CCC2=C(C=3CCCC3C=C12)N | C12H15N
